US07956069B2
Preparation of (3aS,7aS)-1-isopropyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one
Tert-butyl 4-[(3aS,7aS)-3-isopropyl-2-oxooctahydro-1H-benzimidazol-1-yl]piperidine-1-carboxylate was dissolved in methanol (20 mL) and 4 M HCl (7 mL) was then added. The mixture was stirred at room temperature and then concentrated in vacuo to provide the title compound. MS (M+1): 266.34

reactant | Tert-butyl 4-[(3aS,7aS)-3-isopropyl-2-oxooctahydro-1H-benzimidazol-1-yl]piperidine-1-carboxylate | C(C)(C)N1C(N([C@@H]2[C@@H]1CCCC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O | C20H35N3O3
reactant | HCl | 4 M, 7 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | (3aS,7aS)-1-isopropyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one | C(C)(C)N1C(N([C@@H]2[C@@H]1CCCC2)C2CCNCC2)=O | C15H27N3O
